US08664207B2
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylthio)-2-(4-(pyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one
(6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-2-((4-Pyridin-2yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one (20 mg, 0.05 mmol) and phenyl disulfide (22 mg, 0.10 mmol) are dissolved in 400 μL of anhydrous THF, and then 1.0 M LiHMDS in THF (150 μL, 0.15 mmol) is added dropwise. The mixture is stirred at room temperature for 10 min, and then quenched with ammonium chloride aqueous solution. The mixture is diluted with DMF, and then purified by a semi-preparative HPLC to give pure product as pale yellow solid. MS (ESI) m/z 506.2 [M+H]+.

reactant | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-2-((4-Pyridin-2yl)-benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | 0.05 mmol, 20 mg | CN1C=2N(C=3C(C1=O)=CN(C3)CC3=CC=C(C=C3)C3=NC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C24H23N5O
reactant | phenyl disulfide | 0.10 mmol, 22 mg | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | LiHMDS | 1.0 M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 400 μL | C1CCOC1 | C4H8O
solvent | THF | 0.15 mmol, 150 μL | C1CCOC1 | C4H8O
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-3-(phenylthio)-2-(4-(pyridin-2-yl)benzyl)-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | CN1C=2N(C=3C(C1=O)=C(N(C3)CC3=CC=C(C=C3)C3=NC=CC=C3)SC3=CC=CC=C3)[C@@H]3[C@H](N2)CCC3 | C30H27N5OS
